US04379788
2-{4-[2-Hydroxy-3-(2-(2-methyl-phenoxy)-ethylamino)-propoxy]-phenyl}-3-methyl-6,7-dimethoxy-3,4-dihydro-quinazolin-4-one
This compound was prepared analogous to Example 2 from 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-methyl-6,7-dimethoxy-3,4-dihydro-quinazolin-4-one and 2-(2-methyl-phenoxy)-ethylamine.

reactant | 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-methyl-6,7-dimethoxy-3,4-dihydro-quinazolin-4-one | O1C(C1C)OC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2C(N1C)=O)OC)OC | C20H20N2O5
reactant | 2-(2-methyl-phenoxy)-ethylamine | CC1=C(OCCN)C=CC=C1 | C9H13NO
product | 2-{4-[2-Hydroxy-3-(2-(2-methyl-phenoxy)-ethylamino)-propoxy]-phenyl}-3-methyl-6,7-dimethoxy-3,4-dihydro-quinazolin-4-one | OC(COC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2C(N1C)=O)OC)OC)CNCCOC1=C(C=CC=C1)C | C29H33N3O6
